Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"My girlfriend and I ended things today."
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
Mr. ___ is a  ___ y/o M ___ student w/ a h/o
depression and ADD, no significant past medical history. 

Major event today was that GF and him broke up.  Later we 
learned
from parents that this ___ is dating a younger girl that is
from his high school, she is ___ (this is the reason why 
her
parents would not let them be together).  He states that this 
was
the major stressor that precipitated his parents bringing him to
the ED.  Per parents, ex-girlfriend became very concerned about
him, spoke to a teacher that knew patient and then called his
mother to alert her.  

___ states on interview "I'm sad about breaking up with my
girlfriend.  But ___ been feeling sad for a really long time." 
Have been sad around sophomore year of high school, though feels
he's been having "existential crises" since ___ years old.  Sees
___, psychiatrist for 3 months (___).  Prior had
psychiatrist at ___ since Freshman year of college.  

Sadness since sophomore year.  Confused about when/why things
happen since age ___ "why am I in this body, why is this
happening". 

Around ___, realized sad and wanted to act on it. 
Swimming his first semester, trying hard to keep up with 
classes,
felt really lonely. On ___ when everyone went out, 
realized
he didn't want to, he wanted to hurt himself and reached out for
help (to girlfriend).  Girlfriend and him made promises that
night - she promised that when her parents couldn't intervene
with their relationship, she would still want to be with him.  
He
promised her that he would not hurt himself... prior to that was
thinking of hurting himself, but girlfriend called him and he
realized that if he was to hurt himself, it would end up hurting
her.

Now, very upset by loss of her support, ended on decent terms,
but very hurt by the fact that she no longer wants to be with
him.  Denies SIB but has thought about it.  States he may
"overdose, anything quick and painless".  Had these thoughts
recently today - thinks he will want to act on this at some
point, but does not specify when or under what circumstances.  

To patient: How did he end up in hospital?  States ex-girlfriend
called ambulance.  Was with him while he was sad on ___ -
he was acting similar.  Parents don't want him to have
girlfriend.  They have been together for a year, her parents
realized a month ago they were dating and were upset.  They have
never met ___.  ___ parents are ok with them dating. 
Today, she said she didn't know if her parents being upset with
this was worth dating ___.   

Was supposed to go to ___ was recruited, but it fell
through, still affecting him, mentions he is upset that it's
still bothering him as well.   

Not a big fan of school, likes seeing his friends, is always 
able
to get by without much effort.  Swimming was taking too much 
time
at the beginning of this year and realized he needed to make 
some
changes.  Started seeing psychiatrist, got a job, trying to get
rid of what was really holding him down (swimming was causing
lots of stress).  Stress affects his health - for instance he 
got
a bad sinus infection for a month, spread to ears, next month
stomach flu, next month respiratory flu.  

Psych ROS: sleeps 7 hours, feels like not learning anything,
doesn't sound like problems concentrating, appetite no change
(still eating), memory - sounds ok but definitely anhedonia. "I
feel like I'm always just living.  I worry about everything..." 
Even when gets something done that he's worried about, doesn't
take pleasure.  "Abnormally hard to like something" - I was
smoking 6 cigarettes for three months - able to quit cold ___
because took no pleasure."  

"In my reality I don't know if I can ever be happy?"  He
elaborates that he doesn't even know what he wants.  When tries
to take life into own hands and something else impacts it feels
really bad.  Doesn't see the point in things.

Today thoughts of suicide had been brewing a bit, but still 
happy
with her accepting him for how he was.  

To patient: "Where are you on life vs no life?"
- Wants to go home and spend time with friends.  "But I don't
want to try." Does enjoy his time with friends.  Thinks he sees
things way too objectively. 

Only thing I do have control over - feels like can't control how
things go but can control whether he lives or dies.  Defintiely
very passionate person - "if something compels me to do it I
will". Stated after: "Under the impression that one thing will 
go
my way at some point in my life and I will get tired enough".  

Mentions he feels like things are never going to go his way
despite trying, and expresses frustration at trying to make
relationship work with his girlfriend and having her change her
mind.  Feels like everything he tried didn't matter anyways.  

Mind racing - Does stay awake to ponder at night but not up all
night, no risky behaviors.  Thinks falsely diagnosed with ADHD
___ year of HS), took Ritalin on School days to pay 
attention
in class, didn't really like it, thought he would cramp up a lot
in swimming.  Stopped Ritalin 3 weeks ago when started 
wellbutrin
because didn't want to be on two stimulants. 

No thought broadcasting, paranoia, suspicion, withdrawal from
society.  Denies AH/VH.  Denies HI.  

Second day of wellbutrin highly motivated to do things, but 
slept
that night, did not have these symptoms again. No high activity
beyond this, no goal-directed behavior, grandiosity, 
particularly
risk-taking behaviors (besides drug use, which has been over
time). 

Collateral from Parents, present, interviewed separately in
waiting room: 
- Very smart IQ 138, Coach said don't apply early decision -
wasn't working hard, only swimming, stubborn, applied late to
reach schools.  Ended up in ___ not happy there.  Frustrated
with the kids on swim team there.  Hard to adapt and to deal. 

- Sees everything black/white, not gray. (Evidence of this in
interview)

- ___ admitted very sad, started seeing ___ psychologist
at ___, ___ Dr ___ started on ___.  Mother took him
to start seeing Dr. ___ over ___, 
therapy/meds
with him.  Started initially on Zoloft which made him very 
tired.

- Diagnosed with ADHD ___ years ago and taking methylphenidate. 
Executive Functioning - hard for him to take all the info in his
brain and get it out - like writing an essay, would take him
three hours instead of 45 minutes.  However, will remember a 20
digit password in one year.  Dr. ___.. 3 weeks ago switched to
buproprion, has been useful in her opinion.  Break up with the
girlfriend was a setback - processes things - hard to see
something happening and gets fixated on this.  

- Circumstances of coming in: Said some scary things to
girlfriend, Girlfriend talked to a teacher and the teacher 
called
the mother. They are on ___ break.  GF is in high school, she
is a ___. Her parents don't want her dating him; his parents
have told him to stop seeing her as well. 

Collateral from Dr. ___, psychiatrist, ___ who
has seen for six sessions:
- Impression this far is potential personality traits in the way
that patient has fragile ego and seems prone to ego-injury.  - 

- Summarized the highlights of our interview: unsure if patient
was being provocative with the statement ___ I'll get tired"
vs telling the truth about how he is actually feeling.  

- I detailed to Dr. ___ patient states he is not always
very honest with other and admittedly not honest with himself
during the interview; this was a factor in decision-making as
both psychiatrist and this interviewer unsure that patient will
be honest if sent home with parents over the weekend.  Mother 
and
father were not aware of the suicidal thoughts; I told Dr. ___ the sense that patient was down-playing his feelings to his
parents but is honest enough to say that he is sad and feeling
down.  

- Last saw patient on ___ when patient was very
future-oriented and talked about an internship at the
___ over the summer, plans for maybe business
school.  On my interview patient was not nearly as
future-oriented and left all of these things out, stating he was
unsure of what he wanted in life.  Dr. ___ I both felt the
ego-blow of this breakup was substantial. Also talked about age
group and risk of impulsivity - fact that patient said he was a
passionate person and if wants to do something he will do it.

 
Past Medical History:
No major medical conditions
 
Social History:
___
Family History:
- Cousin had a death in family and whole family took zoloft
- Grandmother on mom's side - seems Alzheimer's
- No family history of suiide 

 
Physical Exam:
Admission Physical Exam: 
PHYSICAL EXAMINATION:
VS: T 98.5 BP 117 / 78 HR 101 RR 16 SpO2 98% on RA    
Gen: NAD, young Hispanic man, appears stated age, dressed in
hospital clothing, normal posture, well-nourished,
athletic-appearing 
HEENT: Sclera anicteric. Oropharynx benign. Mucous membranes
moist. 
Neck: Supple. Trachea midline.
CV: Regular rate, positive S1, S2, no gross murmurs, rubs, or
gallops. 
Chest: Clear to ausculation bilaterally
Abdomen: Soft, non-tender, non-distended. Positive BS.
Ext: Warm and well-perfused, no edema. 
Skin: No rashes or lesions noted

Neuro:
Cranial nerves ___ symmetrically intact. 
Motor:  Normal bulk and tone, no tremor, or bradykinesia. Full
strength in bilateral deltoids, elbow flexion and extension,
finger flexion, hip flexors, knee flexion and extension.
Coord: Finger-to-nose-finger movements intact. No truncal 
ataxia.

___: grossly intact
Gait: Posture, stride, and arm-swing normal. 

Neuropsychiatric Examination:
*Behavior: cooperative and engaged, calm with mild fidgeting
throughout, good eye contact
*Mood and Affect: "pretty bad" / incongruent smiles while 
talking
about low mood and recent breakup, slightly oddly related
*Thought process : linear and goal directed.  No loosening of
associations, no tangentiality.  Does not appear to be 
responding
to internal stimuli.
*Thought Content : Denies current SI, any HI and Suicidal 
intent.
No AVH. No overt paranoia or delusions. 
 *Impulse control: questionable
*Insight: questionable
*Judgement: questionable

Cognition:
-Orientation: Full (Name, Place and Time/Date).
-Attention: Can spell "WORLD" backwards
-Memory: intact to history
-Fund of knowledge: Appears average
-Calculations: $1.75= 7 quarters
-Speech: Slowed and somewhat quiet, occasionally mumbles, 
limited
variation in 
-Language: Fluent ___ speaker without paraphasic errors

 
Pertinent Results:
___ 05:00PM   GLUCOSE-104* UREA N-13 CREAT-0.9 SODIUM-140 
POTASSIUM-4.2 CHLORIDE-101 TOTAL CO2-26 ANION GAP-17
___ 05:00PM   ALT(SGPT)-11 AST(SGOT)-19 ALK PHOS-78 TOT 
BILI-0.3
___ 05:00PM   CALCIUM-9.6 PHOSPHATE-4.5 MAGNESIUM-2.4*
___ 05:00PM   TSH-0.89
___ 05:00PM   HCG-<5
___ 05:00PM   WBC-7.1 RBC-5.00 HGB-15.7 HCT-46.9 MCV-94 
MCH-31.4 MCHC-33.5 RDW-12.3 RDWSD-42.8
___ 05:00PM   PLT COUNT-224
___ 01:00AM URINE  HOURS-RANDOM
___ 01:00AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 01:00AM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 01:00AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 01:00AM URINE  RBC-3* WBC-1 BACTERIA-FEW YEAST-NONE 
EPI-0
___ 01:00AM URINE  MUCOUS-RARE
___ 05:27PM   GLUCOSE-94 UREA N-10 CREAT-0.9 SODIUM-140 
POTASSIUM-3.7 CHLORIDE-102 TOTAL CO2-25 ANION GAP-17
___ 05:27PM   estGFR-Using this
___ 05:27PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 05:27PM   WBC-8.1 RBC-4.63 HGB-14.7 HCT-42.7 MCV-92 
MCH-31.7 MCHC-34.4 RDW-12.2 RDWSD-41.2
___ 05:27PM   NEUTS-72.1* ___ MONOS-6.7 EOS-0.5* 
BASOS-0.7 IM ___ AbsNeut-5.85 AbsLymp-1.59 AbsMono-0.54 
AbsEos-0.04 AbsBaso-0.06
___ 05:27PM   PLT COUNT-___. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement, which was accepted (Section 10 & 11) and remained on 
that level throughout their admission. They were also placed on 
15 minute checks status on admission and remained on that level 
of observation throughout while being unit restricted.

2. PSYCHIATRIC: ___ is a ___ man with prior 
history of ?ADHD and depression who presents with suicidal 
ideation without clear intent or plan in the setting of recent 
breakup with girlfriend. His presentation is most consistent 
with dysthymic disorder and/or axis II pathology with possible 
super-imposed MDD and poor distress tolerance and coping skills. 
He was continued on his home medication of Bupropion and offered 
hydroxyzine as needed for anxiety and insomnia, which he used 
rarely with good effect, but which was not continued upon 
discharge. He responded well to interactions with peer and 
staff, and noted that he was no longer feeling suicidal and was 
feeling less overwhelmed with time to interact. Care was 
coordinated with his outpatient psychiatrist/therapist, who 
agreed with deferring further medications at this time and will 
reengage the patient in therapy after discharge.
Discharge medications
#) Buproprion XL 150mg QAM 

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. The 
patient often attended these groups that focused on teaching 
patients various coping skills, which he said he found helpful. 
Patient was friendly and interacted well with peers while on the 
floor. 

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT: Collateral was 
obtained from both parents and outpatient psychiatrist, Dr. 
___, as well as PCP ___. 

RISK ASSESSMENT
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself and/or others based upon 
suicidal statements he made to his girlfriend after their 
breakup.  His static factors noted at that time include history 
of chronic mental illness, history of substance abuse, male 
gender, presence of a concurrent personality disorder. The 
modifiable risk factors were also addressed at that time. We 
discussed his lack of honesty with outpatient providers, limited 
coping skills, and lack of purpose. Finally, the patient is 
being discharged with many protective risk factors, notably his 
future-oriented view point, strong family support, positive 
therapeutic relationship with outpatient provider, and sense of 
responsibility to family, as well as his improved mood and lack 
of current suicidal ideation. Overall, based on the totality of 
our assessment at this time, the patient is not at an acutely 
elevated risk of self-harm nor danger to others.

Our Prognosis of this patient is relatively good pending 
consistent outpatient follow-up. Patient will require long-term 
therapy to address cognitive distortions that lead to low 
distress tolerance, maladaptive coping skills, and lack of 
purpose. Notably, he feels that his life is trivial and that 
trying is not worth it if things "never go his way." This 
existential crisis underlies his chronic dysthymia vs. Axis II 
disorder with possible super-imposed MDD. He has the potential 
to do very well if he remains engaged in outpatient treatment, 
and would benefit from both dynamic psychotherapy and education 
regarding coping skills to increase his distress tolerance.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. BuPROPion XL (Once Daily) 150 mg PO DAILY 

 
Discharge Medications:
1.  BuPROPion XL (Once Daily) 150 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unspecified mood disorder

 
Discharge Condition:
Mental Status: Alert, oriented, and interactive. Clear and 
coherent
Ambulatory status: Ambulatory, independent
Vital Signs ___: T: 97.4 BP: 113/73 HR: 82 RR: 16 O2: 99% RA 
 
Neuropsychiatric Examination: 
 *station and gait: normal station and gait, narrow base, 
normal stride length 
 *tone and strength: moves all four extremities antigravity 
 *Appearance: young Hispanic man, appears stated age, wearing 
sweat pants and shirt, appears athletic  
 Behavior: cooperative with interview, good eye contact, mild 
fidgeting with sweatshirt sleeve 
 *Mood and Affect: "excited," bright and largely euthymic, 
affect much more congruent than previously 
 *Thought process: linear, goal oriented, not tangential, no 
loose associations 
 *Thought Content: denies SI/HI, AVH, no overt paranoia or 
delusions 
 *Judgment and Insight: fair judgment /improving insight into 
how cognitive distortions affect mood/anxiety  
 Cognition:  
 *Attention, *orientation, and executive function: awake, 
alert and oriented x3, attends throughout interview 
 *Memory: short and long term memory grossly intact  
 *Fund of knowledge: average  
 *Speech: normal rate, volume, tone 
 *Language: fluent ___ speaker, no paraphasic errors 

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___